US05880126
2.63 g of 6-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methyl-ethyl)-ester (6.5 mmol) is taken up in 50 ml of dry tetrahydrofuran and mixed for deprotonation with 235 mg of 80% sodium hydride suspension in oil (7.1 mmol). It is allowed to stir for 20 more minutes at room temperature, then 2.22 g of 6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexylbromide (7.1 mmol)--dissolved in 10 ml of tetrahydrofuran--is added. It is stirred for 12 hours at room temperature, mixed with 5 ml of 2N aqueous hydrochloric acid and diluted with water. It is then extracted with dichloromethane, the solvent is drawn off in a vacuum, and the crude product that is obtained is chromatographed on silica gel using hexane-ethyl acetate. 4.1 g of 6-benzyloxy-4-methoxymethyl-9{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is obtained as a brownish oil.

reactant | 6-benzyloxy-4-methoxymethyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methyl-ethyl)-ester | 6.5 mmol, 2.63 g | CC(C)OC(=O)C1=C(C2=C(NC3=CC=C(C=C23)OCC2=CC=CC=C2)C=N1)COC | C24H24N2O4
reactant | sodium hydride | 235 mg | [H-].[Na+]
reactant | 6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexylbromide | 7.1 mmol, 2.22 g | CN(CCC1=CC=CC=C1)CCCCC(CBr)=O | C15H22BrNO
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-benzyloxy-4-methoxymethyl-9{6-[N-methyl-N-(2-phenylethyl)-amino]-2-oxohexyl}9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 4.1 g | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=C(C=C23)OCC2=CC=CC=C2)CC(CCCCN(CCC2=CC=CC=C2)C)=O)C=N1)COC | C39H45N3O5
